US07598249B2
4-(3,4-Dimethyl-benzyl)-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from piperazine-1-carboxylic acid phenylamide and 3,4-dimethylbenzaldehyde. 1H NMR (400 MHz, CDCl3): 7.35-7.26 (m, 4H), 7.11-7.00 (m, 4H), 6.31 (s, 1H), 3.51-3.48 (m, 6H), 2.49-2.26 (m, 4H), 2.26 (d, J=3.8 Hz, 6H).

reactant | piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | 3,4-dimethylbenzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
product | 4-(3,4-Dimethyl-benzyl)-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)C | C20H25N3O
